US04677129
(a) 1-(4-aminophenyl)-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione
0.35 g of 5% palladium-on-carbon catalyst is added to a solution of 3.5 g of 1-(4-nitrophenyl)-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione in 70 ml of ethyl acetate and the whole is hydrogenated under normal pressure and at 30°-35° in a hydrogen atmosphere. When the absorption of hydrogen is complete, the reaction mixture is diluted with 30 ml of methylene chloride and freed of catalyst by filtration over HYFLO Super-Cel®. The solvent is evaporated off in vacuo, and the residue is recrystallised from a mixture of ethyl acetate/n-hexane, yielding the title compound in the form of white crystals having a melting point of 166°-167°.

reactant | 1-(4-nitrophenyl)-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione | 3.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)CCC)=O | C15H16N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 0.35 g | [Pd] | Pd
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-aminophenyl)-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione | NC1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)CCC)=O | C15H18N2O2
